US09371303B2
Step 3) ((3aS,5R,6S,6aS)-6-Hydroxy-2,2-dimethyltetrahydrofuro[3,2-d][1,3]dioxol-5-yl)(morpholino)methanone (134)
To a suspension of (3aS,5R,6S,6aS)-6-Hydroxy-2,2-dimethyltetrahydrofuro[3,2-d][1,3]dioxole-5-carboxylic acid (9.0 g, 44.2 mmol) and HBTU (25.1 g, 66.3 mmol, N,N,N′,N′-tetramethyl-O-(1H-benzotriazol-1-yl)uronium hexafluorophosphate) in tetrahydrofuran was added 4-methylmorpholine (7.3 mL, 66.3 mmol) at room temperature. After 1 h, morpholine (5.8 mL, 66.3 mmol) was added to the mixture at room temperature. After 12 h, the resulting mixture was filtered and the filter cake was washed with tetrahydrofuran. The filtrate was concentrated in vacuo, and the crude was purified by silica gel column chromatography to provide the title compound (5.8 g, 48%) as a yellow solid.

reactant | (3aS,5R,6S,6aS)-6-Hydroxy-2,2-dimethyltetrahydrofuro[3,2-d][1,3]dioxole-5-carboxylic acid | 44.2 mmol, 9.0 g | O[C@@H]1[C@@H](O[C@@H]2[C@H]1OC(O2)(C)C)C(=O)O | C8H12O6
reactant | HBTU | 66.3 mmol, 25.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 66.3 mmol, 7.3 mL | CN1CCOCC1 | C5H11NO
reactant | morpholine | 66.3 mmol, 5.8 mL | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ((3aS,5R,6S,6aS)-6-Hydroxy-2,2-dimethyltetrahydrofuro[3,2-d][1,3]dioxol-5-yl)(morpholino)methanone | 5.8 g, 48% | O[C@@H]1[C@@H](O[C@@H]2[C@H]1OC(O2)(C)C)C(=O)N2CCOCC2 | C12H19NO6
